US08802679B2
4-Bromo-3-chloroaniline (500 mg) was dissolved in DMF (10 ml), and bis(2-bromoethyl)ether (1.12 g), K2CO3 (1.34 g), and potassium iodide (80 mg) were added thereto, followed by stirring at 80° C. for 2 days. To the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was dried over MgSO4 and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (0% to 20% EtOAc/hexane) to obtain 4-(4-bromo-3-chlorophenyl)morpholine (263 mg).

reactant | 4-Bromo-3-chloroaniline | 500 mg | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | bis(2-bromoethyl)ether | 1.12 g | BrCCOCCBr | C4H8Br2O
reactant | K2CO3 | 1.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 80 mg | [I-].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-bromo-3-chlorophenyl)morpholine | 263 mg | BrC1=C(C=C(C=C1)N1CCOCC1)Cl | C10H11BrClNO
